US05998653
A mixture of ethyl 2-(N-ethyl-N-methylsulphonylamino)-4-methylsulphonylbenzoate (11.4 g) and lithium hydroxide monohydrate (1.37 g) in aqueous ethanol (50%) was stirred at room temperature for 19 hours. The mixture was then acidified with conc. hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulphate), filtered and evaporated to yield 2-(N-ethyl-N-methylsulphonylamino)-4-methylsulphonylbenzoic acid as a brown solid (9.48 g), NMR (acetone-d6); 1.15(t,3H), 2.98(s,3H), 3.22(s,3H), 3.85(q,2H), 8.0-8.25(m,3H).

reactant | ethyl 2-(N-ethyl-N-methylsulphonylamino)-4-methylsulphonylbenzoate | 11.4 g | C(C)N(S(=O)(=O)C)C1=C(C(=O)OCC)C=CC(=C1)S(=O)(=O)C | C13H19NO6S2
reactant | lithium hydroxide monohydrate | 1.37 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-(N-ethyl-N-methylsulphonylamino)-4-methylsulphonylbenzoic acid | 9.48 g | C(C)N(S(=O)(=O)C)C1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C11H15NO6S2
